datasets/10k_Mayr_OG.csv
SMILES Labelled
"Cl[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>Cl[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1.[O+]#C[Co-3:63]12(C#[O+])(C#[O+])C3[C:62]1([C:11]1=[CH:10]CCCC1)[Co-3:73]32(C#[O+])(C#[O+])C#[O+]>>C[O:21][CH:20]([CH:10]1CCCC[C+:11]1[C:62]12C3[Co-3:63]1(C#[O+])(C#[O+])(C#[O+])[Co-3:73]32(C#[O+])(C#[O+])C#[O+])[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21"
C1=CC=C([C-:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])C=C1.C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>C[CH:20]([C:10](C1=CC=CC=C1)([S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[S:81](C1=CC=CC=C1)(=[O:82])=[O:92])[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10=20
C1CCC([P:10](C2CCCCC2)C2CCCCC2)CC1.CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([P+:10](C2CCCCC2)(C2CCCCC2)C2CCCCC2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O:72][C:61]([C:10]([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20
"C1=CC=C(C2C3[CH:20](C4=CC=CC=C4)[Pd-:21]23([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C[C:63]([NH:12][C:11](C1=CC=CC=C1)=[CH2:10])=[O:64]>>C[C:63]([NH+:12]=[C:11](C1=CC=CC=C1)[CH2:10][CH:20](C1=CC=CC=C1)C1C(C2=CC=CC=C2)[Pd-2:21]1([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:64] 10,11=10,20;12=11,12;20,21=21"
"CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10][C@@H]1C1=CC=CC=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[C:61]3[N:62](C[C@@H](C(C)C)[C@H]2C2=CC=CC=C2)C2=C(C=CC=C2)[S:72]3)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[CH:62]=[CH2:63].[CH:20]1=[CH:21][C:22](=[O:23])[CH:30]=[CH:31][C:32]1=[O:33]>>C[C+:11]([CH2:10][CH:20]1[CH:21]=[C:22]([O-:23])[CH:30]=[CH:31][C:32]1=[O:33])[CH:62]=[CH2:63] 10,11=10,20;20,21=21,22;22,23=23"
"CC[O:82]/[C:11](=[C:10](C)/[N:61]=[CH:62]/[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1)[O-:12].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>CC[O:82][C:11]([C:10](C)([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)/[N:61]=[CH:62]/[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([S+:61](C)C)[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[N:12]1[C:11](=[CH2:10])[N:61](C)[C:64]2=[C:63]1C=CC=C2>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([CH2:10][C:11]1=[N+:12](C)[C:63]2=[C:64](C=CC=C2)[N:61]1C)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:11](CC1=CC=CC=C1)=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C+:11](C)CC2=CC=CC=C2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[OH2:10]>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([OH2+:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10=20
